US05409666
Diallyl 2,2-bis(pyrenylmethyl)malonate
Diallyl malonate (0.36 g, 2.0 mmol) was added to a stirred suspension of NaH (2.5 mmol) in dry benzene (5 mL). After 30 minutes 1-chloromethylpyrene (0.5 g, 2.0 mmol) in benzene (20 mL) was added. The mixture was gently refluxed for 18 hours, cooled to room temperature and washed with saturated aqueous NaCl (2×5 mL). The organic layer was dried over MgSO4 and the solvent evaporated under reduced pressure to give the product, which was recrystallized from AcOEt/hexane to afford the desired product as white crystals, yield: 0.26 g, 42%, m.p. 178°-180° C. 1H NMR and 13C NMR were in accord with the desired product. Analysis (C43H32O4): calculated C:84.29, H:5.26; found: C:84.13, H:5.23.

reactant | Diallyl malonate | 2.0 mmol, 0.36 g | C(CC(=O)OCC=C)(=O)OCC=C | C9H12O4
reactant | NaH | 2.5 mmol | [H-].[Na+]
reactant | 1-chloromethylpyrene | 2.0 mmol, 0.5 g | ClCC1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C17H11Cl
solvent | benzene | 5 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | Diallyl 2,2-bis(pyrenylmethyl)malonate | C1(=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)CC(C(=O)OCC=C)(C(=O)OCC=C)CC3=CC=C4C=CC2=CC=CC1=CC=C3C4=C21 | C43H32O4
